US08729098B2
Step A: 4-(2-Phenylpropan-2-yl)benzaldehyde
A suspension of propane-2,2-diyldibenzene (3.93 g, 20 mmol) and 1-aza-tricyclo[3.3.1.1*3,7*]decane (2.80 g, 20 mmol) in TFA (35 mL) was heated at 100° C. for 16 h. The reaction mixture was allowed to cool to RT, poured onto cold water and made alkaline (pH=9) with solid K2CO3. The aqueous solution was extracted with Et2O (3×250 mL) and the separated organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, petroleum ether:EtOAc 95:5) affording the title compound (3.47 g, 15.46 mmol).

reactant | propane-2,2-diyldibenzene | 20 mmol, 3.93 g | CC(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H16
reactant | 1-aza-tricyclo[3.3.1.1*3,7*]decane | 20 mmol, 2.80 g | N12CC3CC(CC(C1)C3)C2 | C9H15N
reactant | water | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | TFA | 35 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-Phenylpropan-2-yl)benzaldehyde | 15.46 mmol, 3.47 g | C1(=CC=CC=C1)C(C)(C)C1=CC=C(C=O)C=C1 | C16H16O
